US08258144B2
6-(4-(4-(aminomethyl)piperidin-1-yl)-5-(pyridin-4-yl)pyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one
A solution of tert-butyl (1-(2-chloro-5-(pyridin-4-yl)pyrimidin-4-yl)piperidin-4-yl)methylcarbamate (80 mg, 0.20 mmol) and 6-amino-3,4-dihydroquinolin-2(1H)-one (50 mg, 0.30 mmol) in nBuOH (3 mL) was stirred at 116° C. for 20 h. It was concentrated in vacuo. The residue was dissolved in TFA (4 mL). After being stirred at room temperature for 30 min, TFA was removed in vacuo. The residue was purified by HPLC to give the titled compound. MS 430.4 (M+H); UV 207.7, 264.5 nm.

reactant | tert-butyl (1-(2-chloro-5-(pyridin-4-yl)pyrimidin-4-yl)piperidin-4-yl)methylcarbamate | 0.20 mmol, 80 mg | ClC1=NC=C(C(=N1)N1CCC(CC1)CNC(OC(C)(C)C)=O)C1=CC=NC=C1 | C20H26ClN5O2
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.30 mmol, 50 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | 6-(4-(4-(aminomethyl)piperidin-1-yl)-5-(pyridin-4-yl)pyrimidin-2-ylamino)-3,4-dihydroquinolin-2(1H)-one | NCC1CCN(CC1)C1=NC(=NC=C1C1=CC=NC=C1)NC=1C=C2CCC(NC2=CC1)=O | C24H27N7O
